US07951810B2
Step c: ((2R,3S,5R)-5-[4-(benzoylamino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate
Using essentially the same procedure as example 43 step f, N-{7-[(2R,4S,5R)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-(hydroxymethyl)tetrahydrofuran-2-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}benzamide (0.524 g, 1.12 mmol) was reacted with chlorosulfonamide and the product was purified by flash chromatography (20 to 50% EtOAc/hexanes) to afford the title compound as a white foam (0.292 g, 48%).

reactant | N-{7-[(2R,4S,5R)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-(hydroxymethyl)tetrahydrofuran-2-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}benzamide | 1.12 mmol, 0.524 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C=CC2=C1N=CN=C2NC(C2=CC=CC=C2)=O | C24H32N4O4Si
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
product | ((2R,3S,5R)-5-[4-(benzoylamino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate | 0.292 g, 48% | S(N)(OC[C@H]1O[C@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)N1C=CC2=C1N=CN=C2NC(C2=CC=CC=C2)=O)(=O)=O | C24H33N5O6SSi
